US04766115
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and sodium ethylate in ethanol there is obtained ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and therefrom with hydrochloric acid in alcohol there is obtained the hydrochloride, m.p. 158° C. (with decomposition);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | sodium ethylate | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
